US08008488B2
5.2.1 1-(4-Chlorobutyl)-4-hydroxy-5-methylpyrimidin-2(1H)-one
10.1 g (80.0 mmol) of 4-hydroxy-5-methylpyrimidin-2(1H-one (thymine) in 300 ml of dimethyl sulfoxide (DMSO) and 11.1 g (80.0 mmol) of K2CO3 were stirred at room temperature for 1 hour. Then 13.7 g (80.0 mmol) of 1-bromo-4-chlorobutane were added dropwise to the mixture, and the reaction mixture was stirred at room temperature for 5 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The aqueous phase was then neutralized and extracted with methylene chloride. Drying of the organic phase, removal of the desiccant by filtration and evaporation of the solvent to dryness in vacuo resulted in 7.1 g of 1-(4-chlorobutyl)-4-hydroxy-5-methylpyrimidin-2(1H)-one.

reactant | 4-hydroxy-5-methylpyrimidin | 80.0 mmol, 10.1 g | OC1=NC=NC=C1C | C5H6N2O
reactant | K2CO3 | 80.0 mmol, 11.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 80.0 mmol, 13.7 g | BrCCCCCl | C4H8BrCl
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
product | 1-(4-Chlorobutyl)-4-hydroxy-5-methylpyrimidin-2(1H)-one | ClCCCCN1C(N=C(C(=C1)C)O)=O | C9H13ClN2O2
